US05470851
9(a) 4-{2-[1-(4-Chlorophenyl)-1-phenylethoxy]ethyl}-1-(ethoxycarbonyl)piperazin
Following a procedure similar to that described in Preparation 8(a), but using 1-(4-chlorophenyl)-1-phenylethanol and 1-(2-chloroethyl)-4-(ethoxycarbonyl)piperazine, the title compound was obtained in a yield of 89%.

reactant | 1-(4-chlorophenyl)-1-phenylethanol | ClC1=CC=C(C=C1)C(C)(O)C1=CC=CC=C1 | C14H13ClO
reactant | 1-(2-chloroethyl)-4-(ethoxycarbonyl)piperazine | ClCCN1CCN(CC1)C(=O)OCC | C9H17ClN2O2
product | 4-{2-[1-(4-Chlorophenyl)-1-phenylethoxy]ethyl}-1-(ethoxycarbonyl)piperazin | yield of 89% | ClC1=CC=C(C=C1)C(C)(OCCN1CCN(CC1)C(=O)OCC)C1=CC=CC=C1 | C23H29ClN2O3
